US08053431B2
To a solution of 1-(2-methanesulfonylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid (0.5 g, 1.677 mmol) in DMF (5 mL) was added decahydroquinoline (0.257 g, 1.845 mmol) followed by HOBt (0.25 g, 1.845 mmol) and DIPEA (0.65 g, 5 mmol). The reaction mixture was cooled to 0° C. and EDCl.HCl (0.354 g, 1.845 mmol) was added. It was gradually raised to ambient temperature and stirring continued for 12 h. The solvent was then evaporated, the residue diluted with water (5 mL) and extracted with CH2Cl2 (3×25 mL). The combined organic phases were washed with brine solution, dried (Na2SO4) and the solvent evaporated affording the crude amide which was purified by preparative HPLC to give 0.3 g (43%) of [1-(2-methanesulfonylmethoxy-ethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone. MS-ESI m/z 420 (M+1): 1H NMR (300 MHz, DMSO-d6) δ 1.1-1.9 (br, 13H), 2.8 (s, 3H), 3.0-3.3 (m, 2H), 4.15 (t, 2H), 4.5 (t, 2H), 4.65 (s, 2H), 7.3 (m, 1H), 7.6 (m, 1H), 7.7 (d, 1H), 8.3 (s, 1H)

reactant | 1-(2-methanesulfonylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid | 1.677 mmol, 0.5 g | CS(=O)(=O)COCCN1C=NC2=C1C=CC(=C2)C(=O)O | C12H14N2O5S
reactant | decahydroquinoline | 1.845 mmol, 0.257 g | N1CCCC2CCCCC12 | C9H17N
reactant | HOBt | 1.845 mmol, 0.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5 mmol, 0.65 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 1.845 mmol, 0.354 g | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [1-(2-methanesulfonylmethoxy-ethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone | 0.3 g, 43% | CS(=O)(=O)COCCN1C=NC2=C1C=CC(=C2)C(=O)N2CCCC1CCCCC21 | C21H29N3O4S
